US09376441B2
Preparation of tert-butyl 2,6-dichloro-3-nitropyridin-4-ylcarbamate
A mixture of 2,6-dichloro-3-nitropyridin-4-amine (3.0 g, 14.42 mmol), di-tert-butyl dicarbonate (3.98 g, 18.24 mmol), and 4-dimethylaminopyridine (DMAP) (0.19 g, 1.63 mmol) in THF (10 mL) was stirred at room temperature. After 1 hr, LC/MS indicated full conversion to desired product. Solvent was removed under reduced pressure. Solids re-dissolved and extracted with ethyl acetate and water. Organic layer was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. Residues obtained were purified by column chromatography on silica gel (30% EtOAc-hexane) to give tert-butyl 2,6-dichloro-3-nitropyridin-4-ylcarbamate 2.42.

reactant | 2,6-dichloro-3-nitropyridin-4-amine | 14.42 mmol, 3.0 g | ClC1=NC(=CC(=C1[N+](=O)[O-])N)Cl | C5H3Cl2N3O2
reactant | di-tert-butyl dicarbonate | 18.24 mmol, 3.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 1.63 mmol, 0.19 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2,6-dichloro-3-nitropyridin-4-ylcarbamate | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(OC(C)(C)C)=O)Cl | C10H11Cl2N3O4
